US06245790B1
To a solution of methyl 3-{[3-(4,5-diphenyloxazol-2-yl)bicyclo[2.2.1]hept-2-en-2-yl]methyl}benzoate (1.0 g) in a mixture of methanol (10 ml) and THF (10 ml) was added 1N-NaOH solution (11 ml). After being stirred for 5 minutes, the solvent was removed in vacuo. The residue was dissolved in a mixture of ethyl acetate and 1N-HCl solution. The organic layer was washed with brine and dried over MgSO4. The solution was evaporated in vacuo to give 3-{[3-(4,5-diphenyloxazol-2-yl)bicyclo[2.2.1]hept-2-en-2-yl]methyl}-benzoic acid (1.0 g).

reactant | methyl 3-{[3-(4,5-diphenyloxazol-2-yl)bicyclo[2.2.1]hept-2-en-2-yl]methyl}benzoate | 1.0 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(C2CCC1C2)CC=2C=C(C(=O)OC)C=CC2 | C31H27NO3
reactant | NaOH | 11 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-{[3-(4,5-diphenyloxazol-2-yl)bicyclo[2.2.1]hept-2-en-2-yl]methyl}-benzoic acid | 1.0 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(C2CCC1C2)CC=2C=C(C(=O)O)C=CC2 | C30H25NO3
